US08802670B2
To a solution of 3-methylamino-pyrrolidine-1-carboxylic acid tert-butyl ester (0.50 g) in dichloromethane (10 ml) was added triethylamine (0.38 ml) followed by methanesulfonic acid (0.21 ml). After stirring for 24 hours, the reaction mixture was diluted with dichloromethane, washed with sodium bicarbonate solution, dried (MgSO4) and the solvent removed in vacuo. The residue was purified by flash chromatography to yield 3-(methanesulfonyl-methyl-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester (0.52 g). Treatment of this compound with HCl in dichloromethane/methanol yielded N-Methyl-N-pyrrolidin-3-yl-methanesulfonamide hydrochloride salt (0.41 g).

reactant | 3-methylamino-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.50 g | C(C)(C)(C)OC(=O)N1CC(CC1)NC | C10H20N2O2
reactant | triethylamine | 0.38 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonic acid | 0.21 ml | CS(=O)(=O)O | CH4O3S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 3-(methanesulfonyl-methyl-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.52 g | C(C)(C)(C)OC(=O)N1CC(CC1)N(C)S(=O)(=O)C | C11H22N2O4S
